US04851382
In a mixture of 100 ml of ethanol and 40 ml of water were dissolved 8.0 g (200 mmol) of sodium hydroxide and 11.72 g (100 mmol) of L-norvaline. To the solution was added 27.41 g of 1-bromoethane, and the mixture was heated up to 70° C., followed by vigorously stirring for 5 hours. Thereafter, 4.0 g of sodium hydroxide was added thereto, and the stirring was continued for an additional time of 5 hours under the same condition. After the reaction, the reaction mixture was cooled, adjusted to a pH of 7 with sulfuric acid, and diluted with 1.5 liter of water to obtain N,N-di-n-butyl-L-norvaline as a fatty and oily product.

reactant | sodium hydroxide | 200 mmol, 8.0 g | [OH-].[Na+]
reactant | L-norvaline | 100 mmol, 11.72 g | N[C@@H](CCC)C(=O)O | C5H11NO2
reactant | 1-bromoethane | 27.41 g | BrCC | C2H5Br
reactant | sodium hydroxide | 4.0 g | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
solvent | water | 1.5 liter | O | H2O
product | N,N-di-n-butyl-L-norvaline | C(CCC)N([C@@H](CCC)C(=O)O)CCCC | C13H27NO2
